US04889857
By the use of 1-(2,4-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 2-(2ethylaminoethyl)morpholine, the reaction is similarly carried out as Example 26 to give 1-(2,4-difluorophenyl)-7-[2-(2ethylaminoethyl)morpholino]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | 1-(2,4-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C16H6F5NO3
reactant | 2-(2ethylaminoethyl)morpholine | C(C)NCCC1CNCCO1 | C8H18N2O
product | 1-(2,4-difluorophenyl)-7-[2-(2ethylaminoethyl)morpholino]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(OCC1)CCNCC)F)=O)C(=O)O | C24H23F4N3O4
